US07384967B2
2-(2-{3-[5-Fluoro-2-(2-methoxy-benzoyl)-phenyl]-ureido}-thiazol-4-yl)-N-methyl-acetamide (144 mg, 65%) was prepared from (2-{3-[5-fluoro-2-(2-methoxy-benzoyl)-phenyl]-ureido}-thiazol-4-yl)-acetic acid (215 mg, 0.5 mmol) and 1N solution of methyl amine in THF (0.5 mL, 0.5 mmol) following the general procedure K.

reactant | (2-{3-[5-fluoro-2-(2-methoxy-benzoyl)-phenyl]-ureido}-thiazol-4-yl)-acetic acid | 0.5 mmol, 215 mg | FC=1C=CC(=C(C1)NC(NC=1SC=C(N1)CC(=O)O)=O)C(C1=C(C=CC=C1)OC)=O | C20H16FN3O5S
reactant | methyl amine | CN | CH5N
reactant | THF | 0.5 mmol, 0.5 mL | C1CCOC1 | C4H8O
product | 2-(2-{3-[5-Fluoro-2-(2-methoxy-benzoyl)-phenyl]-ureido}-thiazol-4-yl)-N-methyl-acetamide | 144 mg, 65% | FC=1C=CC(=C(C1)NC(NC=1SC=C(N1)CC(=O)NC)=O)C(C1=C(C=CC=C1)OC)=O | C21H19FN4O4S
